US07795236B2
[3′-(4-Benzyloxycarbonylaminobutyl)biphenyl-4-yl]methanol
[3′-(3-Cyanopropyl)biphenyl-4-yl]methanol (0.44 g) and imidazole (0.30 g) were dissolved in N,N-dimethylformamide (4.3 mL), chlorotriisopropylsilane (0.45 mL) was added, and the resulting mixture was stirred at room temperature for 4 hours. Saturated aqueous sodium hydrogen carbonate (10 mL) was added to the reaction mixture and the whole was extracted with diethyl ether (40 mL). The organic layer was washed with brine (10 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (7.3 mL) and added dropwise to a solution of lithium alminium hydride (0.1 g) in tetrahydrofuran (10 mL) under ice-cooling, and the resulting mixture was stirred at room temperature for 4 hours. The reaction was quenched by sequential addition of water (0.1 mL), 15% aqueous sodium hydroxide (0.1 mL) and water (0.1 mL). The insoluble material was filtered out and the filtrate was concentrated under reduced-pressure. The residue obtained was dissolved in tetrahydrofuran (6.9 mL), N-carbobenzoxyoxysuccinimide (0.45 g) was added, and the resulting mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure and the residue was purified by column chromatography on aminopropylated silica gel (eluent: hexane/ethyl acetate=2/1) to give the title compound as triisopropylated form. The compound obtained was dissolved in tetrahydrofuran (4.1 mL), 1 mol/L tetrabutylammonium fluoride-tetrahydrofuran solution (1.1 mL) was added, and the resulting mixture was stirred at room temperature for 1.5 hours. Saturated aqueous ammonium chloride (10 mL) was added to the reaction mixture and the whole was extracted with ethyl acetate (40 mL). The organic layer was washed with brine (15 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the'title compound (0.40 g).

reactant | [3′-(3-Cyanopropyl)biphenyl-4-yl]methanol | 0.44 g | C(#N)CCCC=1C=C(C=CC1)C1=CC=C(C=C1)CO | C17H17NO
reactant | imidazole | 0.30 g | N1C=NC=C1 | C3H4N2
reactant | chlorotriisopropylsilane | 0.45 mL | Cl[Si](C(C)C)(C(C)C)C(C)C | C9H21ClSi
reactant | sodium hydrogen carbonate | 10 mL | C(O)([O-])=O.[Na+]
reactant | N-carbobenzoxyoxysuccinimide | 0.45 g | C(=O)(OCC1=CC=CC=C1)ON1C(CCC1=O)=O | C12H11NO5
solvent | N,N-dimethylformamide | 4.3 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 6.9 mL | O1CCCC1 | C4H8O
product | [3′-(4-Benzyloxycarbonylaminobutyl)biphenyl-4-yl]methanol | C(C1=CC=CC=C1)OC(=O)NCCCCC=1C=C(C=CC1)C1=CC=C(C=C1)CO | C25H27NO3
